US04198419
A solution of 4.8 g of 4-acetyl-1-cyano-4-(2-phenylthiophenyl)piperidine, Example 8, in 50 ml of 2 N hydrochloric acid is refluxed for 16 hours, effecting a white precipitate. The precipitate is collected by filtration and then washed twice with 50 ml portions of water and dried, providing 4-acetyl-4-(2-phenylthiophenyl)piperidine hydrochloride.

reactant | 4-acetyl-1-cyano-4-(2-phenylthiophenyl)piperidine | 4.8 g | C(C)(=O)C1(CCN(CC1)C#N)C1=C(C=CC=C1)SC1=CC=CC=C1 | C20H20N2OS
reactant | hydrochloric acid | 2 N, 50 ml | Cl | ClH
product | 4-acetyl-4-(2-phenylthiophenyl)piperidine hydrochloride | Cl.C(C)(=O)C1(CCNCC1)C1=C(C=CC=C1)SC1=CC=CC=C1 | InChI=1S/C19H21NOS.ClH/c1-15(21)19(11-13-20-14-12-19)17-9-5-6-10-18(17)22-16-7-3-2-4-8-16;/h2-10,20H,11-14H2,1H3;1H
